US08669361B2
Following the procedure for Example 230 starting with 5-chloro-1-methyl-4-nitro-1H-pyrazole and (R)-(−)-3-hydroxy tetrahydrofuran gave (R)-1-methyl-4-nitro-5-(tetrahydrofuran-3-yloxy)-1H-pyrazole as a clear oil (90 mg, 34%). 1H NMR (400 MHz, CDCl3) δ 8.01 (s, 1H), 5.65 (q, J=3.4 Hz, 1H), 4.10 (q, J=8.0 Hz, 1H), 4.02-3.87 (m, 2H), 3.81 (dd, J=11.3, 3.4 Hz, 1H), 3.71 (s, 3H), 2.26 (td, J=7.3, 3.4 Hz, 2H)

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | (R)-(−)-3-hydroxy tetrahydrofuran | O[C@H]1COCC1 | C4H8O2
product | (R)-1-methyl-4-nitro-5-(tetrahydrofuran-3-yloxy)-1H-pyrazole | 90 mg, 34% | CN1N=CC(=C1O[C@H]1COCC1)[N+](=O)[O-] | C8H11N3O4
